US06620961B1
3.57 g of 2-methyl-3-phenylbenzyl bromide, 1.66 g of potassium cyanate and 7.00 g of methanol in N,N-dimethylformamide (30 ml) were stirred at 80° C. for 5 hours. After the reaction, the reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was separated, dried over anhydrous magnesium sulfate and evaporated under reduced pressure for removal of the solvent. The residue was purified by silica gel column chromatography to give 2.01 g of methyl N-(2-methyl-3-phenylbenzyl)carbamate as colorless crystals. m.p. 91-94° C.

reactant | 2-methyl-3-phenylbenzyl bromide | 3.57 g | CC1=C(CBr)C=CC=C1C1=CC=CC=C1 | C14H13Br
reactant | potassium cyanate | 1.66 g | [O-]C#N.[K+]
reactant | methanol | 7.00 g | CO | CH4O
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl N-(2-methyl-3-phenylbenzyl)carbamate | 2.01 g | CC1=C(CNC(OC)=O)C=CC=C1C1=CC=CC=C1 | C16H17NO2
